US06417200B1
A) N1-(3-cyanobenzoyl)-N2-(4-isopropylbenzoyl)-4-(benzyloxycarbonylmethoxy)-1,2-benzenediamine
To a mixture of N1-(3-cyanobenzoyl)-N2-(4-isopropyl-benzoyl)-4-hydroxy-1,2-benzenediamine (502 mg, 1.26 mmol), acetone (15 mL), and potassium carbonate (216 mg, 1.56 mmol) was added by benzyl 2-bromoacetate (0.4 mL, 2.52 mmol). After stirring overnight, the reaction was concentrated and the residue was chromatographed (100% CH2Cl2 to 10% EtOAc/CH2Cl2) to give the title compound as a solid (532 mg, 77%); IR(CHCl3): 2965, 1759, 1654, 1610, 1514, 1175 cm−1; NMR(300 MHz, CDCl3): δ1.28 (s, 3H), 1.30 (s, 3H), 3.00 (m, 1H), 4.50 (s, 2H), 5.22 (s, 2H), 6.71 (d, 1H, J=9.3), 6.93 (s, 1H), 7.31 (m, 7H), 7.54 (d, 1H, J=21), 7.60 (t, 1H, J=7.8), 7.78 (d, 1H, J=8.7), 7.89 (d, 2H, J=8.1), 8.19 (d, 1H, J=8.1), 8.30 (s, 1H), 8.74 (br s, 1H), 9.48 (br s, 1H); MS(FD): 547.

reactant | N1-(3-cyanobenzoyl)-N2-(4-isopropyl-benzoyl)-4-hydroxy-1,2-benzenediamine | 1.26 mmol, 502 mg | C(#N)C=1C=C(C(=O)NC=2C(=CC(=CC2)O)NC(C2=CC=C(C=C2)C(C)C)=O)C=CC1 | C24H21N3O3
reactant | potassium carbonate | 1.56 mmol, 216 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl 2-bromoacetate | 2.52 mmol, 0.4 mL | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
solvent | acetone | 15 mL | CC(=O)C | C3H6O
product | N1-(3-cyanobenzoyl)-N2-(4-isopropylbenzoyl)-4-(benzyloxycarbonylmethoxy)-1,2-benzenediamine | 532 mg, 77% | C(#N)C=1C=C(C(=O)NC=2C(=CC(=CC2)OCC(=O)OCC2=CC=CC=C2)NC(C2=CC=C(C=C2)C(C)C)=O)C=CC1 | C33H29N3O5
